US07423158B2
A mixture of toluene-4-sulfonic acid 4-(3-bromophenyl)butyl ester (2.3 g, 6 mmol) and powdered sodium cyanide (0.65 g, 13 mmol) in DMSO was heated up to 80° C., stirred for 1.5 hours and monitored by NMR. When the reaction was complete, the reaction mixture was cooled to room temperature, diluted with H2O and extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of this residue on silica gel (ISCO) using (hexanes/EtOAC 9.5/0.5) as the eluting solvent gave 5-(3-bromo-phenyl)pentanenitrile as a colorless oil (1.12 g, 78% yield). m/e (M)+ 237; 1H NMR (400 MHZ, DMSO-d6) δ ppm, 2.63-2.65 (m, 2H), 2.75-2.78 (m, 2H), 2.35-2.38 (m, 2H), 2.60-2.63 (m, 2H), 7.05-7.10 (m, 2H), 7.25-7.28 (m, 2H).

reactant | toluene-4-sulfonic acid 4-(3-bromophenyl)butyl ester | 6 mmol, 2.3 g | BrC=1C=C(C=CC1)CCCCOS(=O)(=O)C1=CC=C(C=C1)C | C17H19BrO3S
reactant | sodium cyanide | 13 mmol, 0.65 g | [C-]#N.[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 5-(3-bromo-phenyl)pentanenitrile | 1.12 g, 78% yield | BrC=1C=C(C=CC1)CCCCC#N | C11H12BrN
